US06878728B1
(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(4-amino-4-oxobutoxy)benzyl]-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate (285)
A solution of 25 mg (0.037 mmol) of 4-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)butanoic acid and 19 μL (0.11 mmol) of N,N-diisopropylethylamine in 1 mL of anhydrous DMF was treated with 28 mg (0.074 mmol) of O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU). The resulting solution was stirred at RT for 15 minutes and was then treated with 0.5 mL of 2M NH3 in MeOH. After 20 minutes TLC indicated the reaction to be complete. The solution was concentrated to dryness at reduced pressure and the residue subjected to flash chromatography (SiO2, 95:5 CH2Cl2/2M NH3 in MeOH) to afford 11 mg (44%) of the desired compound as a white powder. 1H NMR (CDCl3): 7.30 (d, 1H), 7.14 (s, 1H), 7.07 (d, 2H), 6.85 (d, 2H), 6.75 (d, 2H), 6.05 (s, 2H), 5.60 (d, 1H), 5.56-5.34 (m, 2H), 4.97 (m, 2H), 3.94 (m, 3H), 3.78 (m, 3H), 3.66 (m, 2H), 3.09 (m, 1H), 3.00-2.64 (m, 7H), 2.40 (t, 2H), 2.08 (m, 2H), 1.80 (m, 1H), 1.61 (m, 1H), 1.48 (m, 1H), 0.90 (d, 3H), 0.82 (d, 3H). MS(ESI): 678(M+H).

reactant | 4-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)butanoic acid | 0.037 mmol, 25 mg | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(=O)N[C@@H](CC2=CC=C(OCCCC(=O)O)C=C2)[C@@H](CN(CC(C)C)S(=O)(=O)C2=CC1=C(OCO1)C=C2)O | C32H42N2O12S
reactant | N,N-diisopropylethylamine | 0.11 mmol, 19 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.074 mmol, 28 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | NH3 | 2M, 0.5 mL | N | H3N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(4-amino-4-oxobutoxy)benzyl]-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate | 11 mg, 44% | NC(CCCOC1=CC=C(C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C2=CC3=C(OCO3)C=C2)O)NC(O[C@H]2CO[C@H]3OCC[C@H]32)=O)C=C1)=O | C32H43N3O11S
